US08471005B2
[7-(6-Fluoro-5-methyl-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-morpholin-4-yl-phenyl)-amine was prepared from (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine and 2-fluoro-3-methylpyridine-5-boronic acid in an analogous manner to Example 1031b. Product isolated as a yellow solid (79 mg, 66%). m.p.=227-230° C.; LCMS (m/e) 405 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.71 (s, 1H), 8.62 (s, 1H), 8.56-8.49 (m, 1H), 7.51 (d, 2H, J=8.9 Hz), 6.99-6.90 (m, 3H), 6.83 (d, 1H, J=4.8 Hz), 6.68 (bs, 1H), 3.92-3.85 (m, 4H), 3.17-3.10 (m, 4H), 2.38 (s, 3H).

reactant | (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2 | C16H16BrN5O
reactant | 2-fluoro-3-methylpyridine-5-boronic acid | FC1=NC=C(C=C1C)B(O)O | C6H7BFNO2
product | [7-(6-Fluoro-5-methyl-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-morpholin-4-yl-phenyl)-amine | FC1=C(C=C(C=N1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2)C | C22H21FN6O
